US07678803B2
A solution of 1-(3,4,5-trimethoxybenzyl)amino-6-fluoro-isoquinoline (1.26 g, 3.68 mmol) in TFA (30 mL) is refluxed for 16 h. The solvent is evaporated under reduced pressure. Anhydrous MeOH (30 mL) is added to the residue. Solid K2CO3 is slowly added until pH>8. The suspension is filtered through a pad of Celite, and the solvent is evaporated under reduced pressure. The residue is dissolved in CH2Cl2 and filtered through a pad of Celite. The filter cake is rinsed with CH2Cl2, and the solvent is evaporated under reduced pressure. The residue is dried under vacuum to afford 0.41 g (69%) of 1-amino-6-fluoro-isoquinoline. LC/MS m/z=163 [M+H]+.

reactant | 1-(3,4,5-trimethoxybenzyl)amino-6-fluoro-isoquinoline | 3.68 mmol, 1.26 g | COC=1C=C(CNC2=NC=CC3=CC(=CC=C23)F)C=C(C1OC)OC | C19H19FN2O3
solvent | TFA | 30 mL | C(=O)(C(F)(F)F)O | C2HF3O2
product | 1-amino-6-fluoro-isoquinoline | 0.41 g, 69% | NC1=NC=CC2=CC(=CC=C12)F | C9H7FN2
